### PR TITLE
[Merged by Bors] - feat(ModelTheory/FinitelyGenerated): only countably many morphisms from a cg structure to a countable one

### PR DESCRIPTION
**Pull request by GabinKolly**
Prove that there are only countably many morphisms from a countably generated structure, to a countable one.

---

- [x] depends on: #11175

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/DirectLimit.lean [hunk 1]
```diff
@@ -474,22 +474,22 @@ noncomputable def Equiv_iSup :
     simpa only [F, Embedding.codRestrict_apply', Subtype.mk.injEq]
   exact ⟨Equiv.ofBijective F ⟨F.injective, F_surj⟩, F.map_fun', F.map_rel'⟩
 
-theorem Equiv_isup_of_apply {i : ι} (x : S i) :
+theorem Equiv_iSup_of_apply {i : ι} (x : S i) :
     Equiv_iSup S (of L ι _ (fun _ _ h ↦ Substructure.inclusion (S.monotone h)) i x)
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/DirectLimit.lean:478]: Scope-creep, but `Equiv_iSup` is miscapitalised, right? Maybe not worth fixing the names in this PR if we'll have to fix them again very soon

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 2]
```diff
@@ -161,6 +163,8 @@ theorem cg_iff_countable [Countable (Σl, L.Functions l)] {s : L.Substructure M}
   rintro ⟨s, h, rfl⟩
   exact h.substructure_closure L
 
+theorem cg_of_countable {s : L.Substructure M} [h : Countable s] : s.CG :=
+  ⟨s, h.to_set, s.closure_eq⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:167]:
```suggestion
  ⟨s, h.to_set, s.closure_eq⟩

```

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 3]
```diff
@@ -197,6 +201,31 @@ theorem FG.map_of_surjective {N : Type*} [L.Structure N] (h : FG L M) (f : M →
   rw [fg_def, ← hs]
   exact h.range f
 
+theorem FG.countable_Hom_to_countable (N : Type*) [L.Structure N] [Countable N] (h : FG L M) :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:204]:
```suggestion
theorem FG.countable_hom_of_right (N : Type*) [L.Structure N] [Countable N] (h : FG L M) :
```
or something like this? And similarly below

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 4]
```diff
@@ -269,6 +273,217 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+end DirectLimit
+
+section FGPartialEquiv
+
+open PartialEquiv Set DirectLimit
+
+variable (M) (N) (L)
+
+/-- The type of equivalences between finitely generated substructures. -/
+abbrev FiniteEquiv := {f : M ≃ₚ[L] N // f.dom.FG}
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:341]: Is that a better name? I'm a bit unaware of the standard nomenclature here
```suggestion
abbrev FGEquiv := {f : M ≃ₚ[L] N // f.dom.FG}
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 5]
```diff
@@ -269,6 +273,217 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+
+variable {M} {N} {L}
+
+/-- The cofinal set of finite equivalences with a given element in their domain. -/
+def definedAtLeft
+    (h : ∀ f : (M ≃ₚ[L] N), ∀ _ : f.dom.FG, ∀ m : M, ∃ g : (M ≃ₚ[L] N), f ≤ g ∧ m ∈ g.dom)
+    (m : M) : Order.Cofinal (FiniteEquiv L M N) where
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:348]: Are you sure you want to use `Order.Cofinal` here rather than a `Set (FiniteEquiv L M N)` + `∃ᶠ f in atTop, f ∈ mySet`? or even maybe just the statement `∃ᶠ f in atTop, m ∈ f.val.dom`?

File: Mathlib/ModelTheory/DirectLimit.lean (hunk 1 above)
Comment (awainverse) [reply Mathlib/ModelTheory/DirectLimit.lean:478]: I though `iSup` was correct capitalization - is the `E` in `Equiv` supposed to be lowercase?

Comment (YaelDillies) [reply Mathlib/ModelTheory/DirectLimit.lean:478]: I mean that `Equiv_iSup` is a `def` but is neither `UpperCamelCase` nor `lowerCamelCase`, even after disregarding the `iSup` exception

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 6]
```diff
@@ -269,6 +273,217 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+  constructor <;>
+  · intro H f fg x
+    let ⟨g, g_prop⟩ := H f.symm (f.fg_iff.1 fg) x
+    use g.symm
+    convert g_prop
+    exact symm_le_iff.symm
+
+/-- For a countably generated structure `M` and a structure `N`, if any partial equivalence
+  between finitely generated substructures can be extended to any element in the domain,
+  then there exists an embedding of `M` in `N`. -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:405]:
```suggestion
between finitely generated substructures can be extended to any element in the domain,
then there exists an embedding of `M` in `N`. -/
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 7]
```diff
@@ -269,6 +273,217 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+    constructor
+    · simp only [union_singleton]
+      exact Substructure.subset_closure <| mem_insert_iff.2 <| Or.inl <| refl n
+    · apply le_codRestrict
+      rw [Substructure.closure_union]
+      simp only [Substructure.closure_eq, ge_iff_le,
+        Substructure.closure_le, singleton_subset_iff, le_sup_left]
+      exact f_le_g
+
+theorem back_iff_symm_of_forth :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:393]: Is this an auxiliary lemma? If so,
```suggestion
private theorem back_iff_symm_of_forth :
```

File: Mathlib/ModelTheory/PartialEquiv.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/ModelTheory/PartialEquiv.lean]: 🏓 You seem to have let this through

**Comment by awainverse** [comment]
This PR originally just dealt with the DirectLimit file - I included some more parts of the project after the fact.
I think those parts need a bit more work, so I've removed them from this PR, and will hopefully PR those soon.
Specifically, I think there should be a better definition of an "extension pair" or "back-and-forth pair" that indicates that any `PartialEquiv` of finitely generated substructures can be extended.

File: Mathlib/ModelTheory/DirectLimit.lean (hunk 1 above)
Comment (awainverse) [reply Mathlib/ModelTheory/DirectLimit.lean]: I've tried to do appropriate camelCase, not sure what's best here.

Comment (YaelDillies) [reply Mathlib/ModelTheory/DirectLimit.lean]: Mind making the rename a separate PR? Then we can easily get non-model theorists (not that I am one!) to review

**Comment by YaelDillies** [comment]
Sorry, this is going to be very vague as I am going off memory, but have you read this proof perl paper about back and forth arguments in Coq? Does your back and forth argument fit in their framework?

File: Mathlib/ModelTheory/DirectLimit.lean (hunk 1 above)
Comment (awainverse) [reply Mathlib/ModelTheory/DirectLimit.lean]: Fair enough - spelling reverted.

**Comment by awainverse** [comment]
I hadn't read it - there are two notable differences. (If indeed this is what you mean: https://drops.dagstuhl.de/storage/00lipics/lipics-vol237-itp2022/LIPIcs.ITP.2022.22/LIPIcs.ITP.2022.22.pdf )

- One is that they're focusing on _computational_ aspects of it - I don't think it makes sense to try too hard to make things decidable right now, I'm aiming for some very classical logic settings.
- Also, they're implementing a finite partial isomorphism as literally a list in `X × Y` with appropriate properties. These naturally induce isomorphisms between finite substructures, so I don't think this is an important difference. I have some more thoughts about this that I could convey better on Zulip.

File: Mathlib/ModelTheory/PartialEquiv.lean (hunk 5 above)
Comment (awainverse) [reply Mathlib/ModelTheory/PartialEquiv.lean]: I am now sure that I want to keep `Order.Cofinal` instead of using filters, because `L.FGEquiv M N` isn't directed, so `(atTop : Filter (L.FGEquiv M N)) = ⊥`.
Specifically, look at two partial equivalences sending a particular element to two different values - there can't be a common extension.

Comment (YaelDillies) [reply Mathlib/ModelTheory/PartialEquiv.lean]: Oh so `∀ a, ∃ b ≥ a, p b` doesn't even describe a filter. That's unfortunate yes

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 8]
```diff
@@ -237,6 +237,10 @@ theorem toEquivOfEqTop_toEmbedding {f : M ≃ₚ[L] N} (h_dom : f.dom = ⊤)
   cases h_cod
   rfl
 
+theorem fg_iff {N : Type*} [L.Structure N] (f : M ≃ₚ[L] N) :
+    f.dom.FG ↔ f.cod.FG := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:241]: I feel like this name is missing `dom` and `cod`
```suggestion
theorem dom_fg_iff_cod_fg {N : Type*} [L.Structure N] (f : M ≃ₚ[L] N) :
    f.dom.FG ↔ f.cod.FG := by
```
maybe?

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 9]
```diff
@@ -269,6 +273,187 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+  Substructure.inclusion (dom_le_dom (S.monotone h))) where
+  map_self' := fun _ _ _ ↦ rfl
+  map_map' := fun _ _ _ ↦ rfl
+
+instance : DirectedSystem (fun i ↦ (S i).cod) (fun _ _ h ↦
+  Substructure.inclusion (cod_le_cod (S.monotone h))) where
+  map_self' := fun _ _ _ ↦ rfl
+  map_map' := fun _ _ _ ↦ rfl
+
+/-- The limit of a directed system of PartialEquivs.-/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:293]:
```suggestion
/-- The limit of a directed system of PartialEquivs. -/
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 10]
```diff
@@ -269,6 +273,187 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+        (fun _ _ hij ↦ Substructure.inclusion (cod_le_cod (S.monotone hij)))
+        (fun i ↦ (S i).toEquiv)
+        (fun _ _ hij _ ↦ toEquiv_inclusion_apply (S.monotone hij) _)
+      ).comp
+        (Equiv_iSup {
+          toFun := (fun i ↦ (S i).dom)
+          monotone' := monotone_dom.comp S.monotone}).symm)
+
+@[simp]
+theorem partialEquiv_limit_dom : (partialEquivLimit S).dom = iSup (fun x ↦ (S x).dom) := rfl
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:314]:
```suggestion
theorem partialEquivLimit_dom : (partialEquivLimit S).dom = iSup (fun x ↦ (S x).dom) := rfl
```
and below. /maybe
```suggestion
theorem dom_partialEquivLimit : (partialEquivLimit S).dom = iSup (fun x ↦ (S x).dom) := rfl
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 11]
```diff
@@ -269,6 +273,187 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+open PartialEquiv Set DirectLimit
+
+variable (M) (N) (L)
+
+/-- The type of equivalences between finitely generated substructures. -/
+abbrev FGEquiv := {f : M ≃ₚ[L] N // f.dom.FG}
+
+/-- Two structures `M` and `N` form an extension pair if the domain of any finitely-generated map
+from `M` to `N` can be extended to include any element of `M`. -/
+def extensionPair : Prop := ∀ (f : L.FGEquiv M N) (m : M), ∃ g, m ∈ g.1.dom ∧ f ≤ g
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:345]:
```suggestion
def IsExtensionPair : Prop := ∀ (f : L.FGEquiv M N) (m : M), ∃ g, m ∈ g.1.dom ∧ f ≤ g
```
or something like that?

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 12]
```diff
@@ -269,6 +273,187 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+
+variable {M N L}
+
+theorem Substructure.countable_self_FGEquiv_of_countable [Countable M] :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:349]:
```suggestion
theorem Substructure.countable_self_fgequiv_of_countable [Countable M] :
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 13]
```diff
@@ -269,6 +273,187 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+    fun U ↦ (U.val.fg_iff_structure_fg.1 U.prop)
+  exact Function.Embedding.countable ⟨g, g_inj⟩
+
+instance inhabited_self_FGEquiv : Inhabited (L.FGEquiv M M) :=
+  ⟨⟨⟨⊥, ⊥, Equiv.refl L (⊥ : L.Substructure M)⟩, fg_bot⟩⟩
+
+/-- Maps to the symmetric finitely-generated partial equivalence. -/
+def FGEquiv.symm (f : L.FGEquiv M N) : L.FGEquiv N M := ⟨f.1.symm, f.1.fg_iff.1 f.2⟩
+
+lemma extensionPair_symm : L.extensionPair M N ↔
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:372]:
```suggestion
lemma extensionPair_iff_cod : L.extensionPair M N ↔
```
as `_symm` (or rather `_comm` would rather relate `L.extensionPair M N` and `L.extensionPair N M`

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 14]
```diff
@@ -61,6 +61,8 @@ theorem fg_iff_exists_fin_generating_family {N : L.Substructure M} :
 theorem fg_bot : (⊥ : L.Substructure M).FG :=
   ⟨∅, by rw [Finset.coe_empty, closure_empty]⟩
 
+instance instInhabited_finiteEquiv : Inhabited { S : L.Substructure M // S.FG } := ⟨⊥, fg_bot⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:64]: There's no `Equiv` anywhere?
```suggestion
instance instInhabited_fg : Inhabited { S : L.Substructure M // S.FG } := ⟨⊥, fg_bot⟩
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 15]
```diff
@@ -269,6 +273,191 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+  refine Iff.intro ?_ ?_ <;>
+  · intro h f m
+    obtain ⟨g, h1, h2⟩ := h f.symm m
+    exact ⟨g.symm, h1, monotone_symm h2⟩
+
+namespace IsExtensionPair
+
+lemma cod (h : L.IsExtensionPair M N) (f : L.FGEquiv N M) (m : M) :
+    ∃ g, m ∈ g.1.cod ∧ f ≤ g :=
+  IsExtensionPair_iff_cod.1 h f m
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:383]:
```suggestion
protected alias ⟨cod, _⟩ := IsExtensionPair_iff_cod
```

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 16]
```diff
@@ -269,6 +273,189 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+    exact fun x hx ↦ congr_fun (congr_arg (↑) h) ⟨x, hx⟩
+  have : ∀ U : { S : L.Substructure M // S.FG }, Structure.FG L U.val :=
+    fun U ↦ (U.val.fg_iff_structure_fg.1 U.prop)
+  exact Function.Embedding.countable ⟨g, g_inj⟩
+
+instance inhabited_self_FGEquiv : Inhabited (L.FGEquiv M M) :=
+  ⟨⟨⟨⊥, ⊥, Equiv.refl L (⊥ : L.Substructure M)⟩, fg_bot⟩⟩
+
+/-- Maps to the symmetric finitely-generated partial equivalence. -/
+def FGEquiv.symm (f : L.FGEquiv M N) : L.FGEquiv N M := ⟨f.1.symm, f.1.dom_fg_iff_cod_fg.1 f.2⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:370]:
```suggestion
@[simps]
def FGEquiv.symm (f : L.FGEquiv M N) : L.FGEquiv N M := ⟨f.1.symm, f.1.dom_fg_iff_cod_fg.1 f.2⟩
```
or write out the appropriate lemmas yourself

File: Mathlib/ModelTheory/PartialEquiv.lean [hunk 17]
```diff
@@ -269,6 +273,189 @@ theorem toPartialEquiv_toEmbedding {f :  M ≃ₚ[L] N} (h : f.dom = ⊤) :
...
+    obtain ⟨g, h1, h2⟩ := h f.symm m
+    exact ⟨g.symm, h1, monotone_symm h2⟩
+
+namespace IsExtensionPair
+
+protected alias ⟨cod, _⟩ := IsExtensionPair_iff_cod
+
+/-- The cofinal set of finite equivalences with a given element in their domain. -/
+def definedAtLeft
+    (h : L.IsExtensionPair M N) (m : M) : Order.Cofinal (FGEquiv L M N) where
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/PartialEquiv.lean:385]: I don't have a better name to suggest, but I should point out that this name reads like a Prop. Maybe you have an idea to improve it? Non-blocking, though

Comment (awainverse) [reply Mathlib/ModelTheory/PartialEquiv.lean:385]: Would `cofinalMemDom` or `memDomCofinal` be better?
(It might read like a Prop one way or another, because cofinality is a subtype that easily could have been a Prop)

Comment (awainverse) [reply Mathlib/ModelTheory/PartialEquiv.lean:386]: I would have guessed that it would be a predicate to be cofinal, but it seems to be implemented as a subtype of sets in analogy to ideals, where it does make sense to be bundled. I have no particularly strong opinion, as I'm not really aware of the other API features.

Comment (YaelDillies) [reply Mathlib/ModelTheory/PartialEquiv.lean:386]: `Order.Ideal` is a half-baked file so I am willing to hear that the API is suboptimal. I will try writing you a `Final`/`Cofinal` API tomorrow.

Comment (awainverse) [reply Mathlib/ModelTheory/PartialEquiv.lean:386]: To be clear - I don't have any real complaint, or even a clear request, with the `Order.Cofinal` API, in part because I didn't write any of the proofs that really use it here, @QuinnLesquimau did.

Comment (YaelDillies) [reply Mathlib/ModelTheory/PartialEquiv.lean:386]: I guess this can be future work

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
